US08097613B2
4-Fluorobenzaldehyde (0.500 mL, 4.66 mmol), sodium acetate (0.766 g, 9.34 mmol), powdered/activated 4 Å molecular sieves (1.0 g) and sodium cyanoborohydride (0.587 g, 9.34 mmol) were added sequentially to a solution of racemic 3-amino-5-methyl-hexanoic acid ethyl ester hydrochloride (0.979 g, 4.67 mmol) in methanol (25 mL) at 25° C. The mixture was stirred at 25° C. for 22 h, and then was filtered through Celite. The Celite was washed with ethyl acetate (2×30 mL) and the combined filtrate and washings were partitioned between half-saturated aqueous sodium bicarbonate solution (150 mL) and ethyl acetate (2×150 mL). The combined organic layers were dried over sodium sulfate and were concentrated in vacuo. The residue was purified by flash column chromatography (Teledyne Isco RediSep column; 0-80% ethyl acetate in hexanes) to afford rac-3-(4-fluoro-benzylamino)-5-methyl-hexanoic acid ethyl ester (0.616 g, 2.19 mmol, 47%) as a pale yellow oil. 1H NMR (400 MHz, CDCl3) δ: 0.88 (3H, d, J=3.8 Hz), 0.90 (3H, d, J=3.4 Hz), 1.26 (3H, t, J=7.0 Hz), 1.43-1.49 (1H, m), 1.66-1.76 (1H, m), 2.48 (2H, d, J=6.3 Hz), 3.04-3.11 (1H, m), 3.76 (1H, d, J=13.6 Hz), 3.80 (1H, d, J=12.2 Hz), 4.10-4.18 (2H, m), 6.97-7.01 (2H, m), 7.29-7.32 (2H, m).

reactant | 4-Fluorobenzaldehyde | 4.66 mmol, 0.500 mL | FC1=CC=C(C=O)C=C1 | C7H5FO
reactant | sodium acetate | 9.34 mmol, 0.766 g | C(C)(=O)[O-].[Na+]
reactant | sodium cyanoborohydride | 9.34 mmol, 0.587 g | C(#N)[BH3-].[Na+]
reactant | racemic 3-amino-5-methyl-hexanoic acid ethyl ester hydrochloride | 4.67 mmol, 0.979 g | Cl.C(C)OC(CC(CC(C)C)N)=O
solvent | methanol | 25 mL | CO | CH4O
product | rac-3-(4-fluoro-benzylamino)-5-methyl-hexanoic acid ethyl ester | 2.19 mmol, 0.616 g, 47% | C(C)OC(CC(CC(C)C)NCC1=CC=C(C=C1)F)=O | C16H24FNO2
